US05002953
4-[2-(N-Methyl-N-(2-benzoxazolyl)amino)ethoxy]benzaldehyde
To a solutiOn of 2-[N-methyl-N-(2-benzoxazolyl) amino]ethanol (9.6 g), triphenylphosphine (13.1 g) and 4-hydroxybenzaldehyde (6.1 g) in dry tetrahydrofuran (150 ml) was added dropwise a solution of diethyl azodicarboxylate (9.0 g) in dry tetrahydrofuran (30 ml), under a blanket of nitrogen with stirring at room temperature. The solution was stirred overnight at room temperature following which the solvent was removed under reduced pressure. The residue was dissolved in diethyl ether (300 ml), filtered and the ether solution was washed with dilute sodium hydroxide solution (200 ml), saturated brine (200 ml), dried (MgSO4), filtered and the solvent evaporated. The title compound (mp 97°-98° C.) was obtained after chromatography on silica-gel, eluting with dichloromethane. 1H NMR δ (CDCl3) 3 30 (3H, s); 3.85 (2H, t); 4.30 (2H, t) 6.80-7.85 (8H, complex); 9.85 (1H, s).

reactant | 2-[N-methyl-N-(2-benzoxazolyl) amino]ethanol | 9.6 g | CN(C=1OC2=C(N1)C=CC=C2)CCO | C10H12N2O2
reactant | triphenylphosphine | 13.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-hydroxybenzaldehyde | 6.1 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | diethyl azodicarboxylate | 9.0 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-[2-(N-Methyl-N-(2-benzoxazolyl)amino)ethoxy]benzaldehyde | CN(C=1OC2=C(N1)C=CC=C2)CCOC2=CC=C(C=O)C=C2 | C17H16N2O3
